US04515786
Methyl 2β,3α-diacetoxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate
Methyl 2β-acetoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (3.069 g) in chloroform (33 ml) containing dry PTSA (2.64 g) was stirred for 20 min then treated with acetic anhydride (6.5 ml) and the mixture left for 5 h. The mixture was diluted with ethanol and evaporated to give an oil. This was dissolved in ethyl acetate, washed with aqueous ammonia solution (2×) and water (1×), dried and evaporated to give an oil (2.867 g). This was purified by preparative t.l.c. in chloroform/methanol (9:1) to give the title compound [α]D +48.6°, νmax 1730 cm-1.

reactant | Methyl 2β-acetoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 3.069 g | C(C)(=O)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC)O | C28H47NO5
reactant | PTSA | 2.64 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | acetic anhydride | 6.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 33 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2β,3α-diacetoxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 2.867 g | C(C)(=O)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC)OC(C)=O | C30H49NO6
